US06900215B2
3-[4-Fluoro-3-(pyridin-3-yl)phenyl]-7-(2,2,4-trimethyl-[1,3]dioxolan-4-yl)imidazo[1,2-α]pyrimidine (1.00 g, 2.47 mmol) was stirred in 2N hydrochloric acid (20 ml) at 70° C. for 10 min. The reaction mixture was allowed to cool and was then loaded onto a strong cation-exchange cartridge. Non-basic impurities were removed by elution with methanol. Elution with 10% ammonia in methanol gave 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propane-1,2-diol as an oil (450 mg) which solidified on standing. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (360 MHz, d6-DMSO) 1.50 (3H, s), 3.67 (2H, m), 7.74 (1H, dd, J 11 and 8), 7.89 (3H, m), 8.13 (1H, dd, J 7 and 2), 8.51 (1H, d, J 8), 8.58 (1H, s), 8.85 (1H, dd, J 5 and 1), 9.12 (1H, s), 9.40 (1H, d, J 7).

reactant | 3-[4-Fluoro-3-(pyridin-3-yl)phenyl]-7-(2,2,4-trimethyl-[1,3]dioxolan-4-yl)imidazo[1,2-α]pyrimidine | 2.47 mmol, 1.00 g | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C2(OC(OC2)(C)C)C)C=2C=NC=CC2 | C23H21FN4O2
solvent | hydrochloric acid | 2N, 20 ml | Cl | ClH
product | 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propane-1,2-diol | 450 mg | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(CO)(C)O)C=2C=NC=CC2 | C20H17FN4O2
